US07915424B2
(E)-5-(3-Methoxyphenylethynyl)-pyridine-3-carbaldehyde O-methyloxime
Prepare essentially as described in EXAMPLE 6 using 5-(3-methoxyphenylethynyl)-pyridine-3-carbaldehyde, (prepared essentially as described in EXAMPLE 91), (290 mg, 1.22 mmol) and methoxylamine hydrochloride (520 mg, 9.78 mmol). The E/Z Isomers were separated during the purification to give the title compound (254 mg, 78%).

reactant | 5-(3-methoxyphenylethynyl)-pyridine-3-carbaldehyde | COC=1C=C(C=CC1)C#CC=1C=C(C=NC1)C=O | C15H11NO2
reactant | methoxylamine hydrochloride | 9.78 mmol, 520 mg | Cl.O(C)N
product | (E)-5-(3-Methoxyphenylethynyl)-pyridine-3-carbaldehyde O-methyloxime | 254 mg, 78% | CO\N=C\C=1C=NC=C(C1)C#CC1=CC(=CC=C1)OC | C16H14N2O2
